US04064258
0.051 Mole of lithium aluminum hydride is dissolved in 200 ml. of anhydrous ethyl ether at 0° C, under nitrogen. 0.0571 Mole of adamant-2-yl acetonitrile in 100 ml. of anhydrous ethyl ether is added dropwise with stirring and the mixture is allowed to warm to room temperature and stirred for one hour. 10 Ml. of water is added dropwise and the mixture then filtered. The filtrate is dried over potassium hydroxide pellets and then filtered. The filtrate is distilled to remove the solvent affording 2-(adamant-2-yl)ethylamine.

reactant | lithium aluminum hydride | 0.051 Mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | adamant-2-yl acetonitrile | 0.0571 Mole | C12C(C3CC(CC(C1)C3)C2)CC#N | C12H17N
solvent | water | O | H2O
product | 2-(adamant-2-yl)ethylamine | C12C(C3CC(CC(C1)C3)C2)CCN | C12H21N
